US07608629B2
2-Chloro-6-fluoro-N-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-benzamide hydrogen chloride salt
Combine 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine (preparation 60, 200 mg, 0.96 mmol), and dioxane (15 mL), stir and heat at 50° C. Add 2-chloro-6-fluorobenzoyl chloride (214 □L, 1.1 mmol), and heat at 85° C. for an additional 3 hr. Cool the reaction to room temperature, and load onto a 5 g SCX cartridge. Wash resin with Methanol, then remove product with 2 M NH3/methanol. Concentrate in vacuo, and silica gel chromatography eluting with 5-20% 2 M NH3 in methanol/methylene dichloride. Dissolve the purified oil (286 mg, 81% isolated yield) in methanol, add NH4Cl (42 mg, 1 eq) as a solid, and sonicate the solution at room temperature for 15 min. Concentration in vacuo provides the title compound: mass spectrum (ion spray): m/z=364.1 (M+1); mp=139.6° C.

reactant | 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine | 0.96 mmol, 200 mg | CN1CCC(CC1)OC1=CC=CC(=N1)N | C11H17N3O
reactant | 2-chloro-6-fluorobenzoyl chloride | 1.1 mmol | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
reactant | NH3 methanol | 2 M | N.CO
reactant | NH4Cl | 42 mg, 1 eq | [NH4+].[Cl-]
solvent | Methanol | CO | CH4O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-6-fluoro-N-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-benzamide hydrogen chloride salt | Cl.ClC1=C(C(=O)NC2=NC(=CC=C2)OC2CCN(CC2)C)C(=CC=C1)F | InChI=1S/C18H19ClFN3O2.ClH/c1-23-10-8-12(9-11-23)25-16-7-3-6-15(21-16)22-18(24)17-13(19)4-2-5-14(17)20;/h2-7,12H,8-11H2,1H3,(H,21,22,24);1H
